US08859574B2
A solution of (E)-N′-hydroxyisobutyrimidamide (0.51 g, 5 mmol) and trichloroacetic anhydride (2.31 g, 7.5 mmol) in toluene (20 mL) was stirred at 80° C. After 4 h, the reaction was diluted with EtOAc (50 mL), washed with saturated aqueous NaHCO3 (2×10 mL), dried over Na2SO4 and evaporated to give 3-Isopropyl-5-(trichloromethyl)-1,2,4-oxadiazole as a clear liquid which was used without further purification; 1H NMR (400 MHz, CDCl3) δ 3.16 (septet, J=7.2 Hz, 1H), 1.39 (d, J=6.8 Hz, 6H).

reactant | (E)-N′-hydroxyisobutyrimidamide | 5 mmol, 0.51 g | O/N=C(\C(C)C)/N | C4H10N2O
reactant | trichloroacetic anhydride | 7.5 mmol, 2.31 g | ClC(C(=O)OC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O3
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 3-Isopropyl-5-(trichloromethyl)-1,2,4-oxadiazole | C(C)(C)C1=NOC(=N1)C(Cl)(Cl)Cl | C6H7Cl3N2O
